US05153214
To a solution of methyl (S)-8-(benzyloxy)-4-[2-(3-pyridyloxy)ethyl]octanoate (1.1 g, 2.7 mmol) in ethanol (20 ml) is added cyclohexene (10.5 ml) followed by 20% palladium hydroxide on carbon (0.28 g). The mixture is heated at reflux for 18 hours. The catalyst is filtered off and washed with ethanol (3×10 ml). The solvent is evaporated and the residue purified by chromatography on silica gel using ethyl acetate as eluent to obtain methyl (S)-8-hydroxy-4-[2-(3-pyridyloxy)ethyl]octanoate; IR (CH2Cl2): 3600, 1732, 1282, 1230 cm-1.

reactant | methyl (S)-8-(benzyloxy)-4-[2-(3-pyridyloxy)ethyl]octanoate | 2.7 mmol, 1.1 g | C(C1=CC=CC=C1)OCCCC[C@@H](CCC(=O)OC)CCOC=1C=NC=CC1 | C23H31NO4
reactant | cyclohexene | 10.5 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.28 g | [OH-].[OH-].[Pd+2]
product | methyl (S)-8-hydroxy-4-[2-(3-pyridyloxy)ethyl]octanoate | OCCCC[C@@H](CCC(=O)OC)CCOC=1C=NC=CC1 | C16H25NO4
